US04613676
Z-Phe-His-Leu-Val-2-(2-hydroxyethylamino)-ethyl amide
In a manner analogous to that described in Example 1, using as starting materials 118 mg of Z-Phe-His-OH, 78 mg of H-Leu-Val-2-(2-hydroxyethylamino)-ethyl amide, 42 mg of HOBt and 66 mg of DCCI, the title compound is obtained after flash chromatography (65 g of silica gel 60, 40-63 μm, eluant system B11). Rf (B11)=0.32.

reactant | Z-Phe-His-OH | 118 mg | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CNC=N1)C(=O)O)C(=O)OCC1=CC=CC=C1 | C23H24N4O5
reactant | H-Leu-Val 2-(2-hydroxyethylamino)-ethyl amide | 78 mg | N[C@@H](CC(C)C)C(=O)N[C@@H](C(C)C)C(=O)O.OCCNCC[NH-]
reactant | HOBt | 42 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCCI | 66 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
product | Z-Phe-His-Leu-Val 2-(2-hydroxyethylamino)-ethyl amide | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](C(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1.OCCNCC[NH-] | InChI=1S/C34H44N6O7.C4H11N2O/c1-21(2)15-26(32(43)40-29(22(3)4)33(44)45)37-31(42)28(17-25-18-35-20-36-25)38-30(41)27(16-23-11-7-5-8-12-23)39-34(46)47-19-24-13-9-6-10-14-24;5-1-2-6-3-4-7/h5-14,18,20-22,26-29H,15-17,19H2,1-4H3,(H,35,36)(H,37,42)(H,38,41)(H,39,46)(H,40,43)(H,44,45);5-7H,1-4H2/q;-1/t26-,27-,28-,29-;/m0./s1
